US07625886B2
7i) (R)-1-(2-methoxy-7-methyl-1H-benzimidazol-5-ylmethyl)-2-(4-morpholin-4-yl-piperidin-1-yl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
40 mg (0.24 mmol) 4-piperidin-4-yl-morpholine were added to a solution of 90 mg (0.16 mmol) (R)-1-carboxy-2-(2-methoxy-7-methyl-1H-benzimidazol-5-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate, 60 mg (0.19 mmol) TBTU and 30 μL (0.22 mmol) triethylamine in 1 mL DMF and the reaction mixture was stirred overnight at RT. The reaction mixture was purified by HPLC without working up; the fractions containing the product were combined and lyophilised.

reactant | 4-piperidin-4-yl-morpholine | 0.24 mmol, 40 mg | N1CCC(CC1)N1CCOCC1 | C9H18N2O
reactant | (R)-1-carboxy-2-(2-methoxy-7-methyl-1H-benzimidazol-5-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.16 mmol, 90 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC3=C(NC(=N3)OC)C(=C1)C)C(=O)O)C=CC=C2 | C27H31N5O6
reactant | TBTU | 0.19 mmol, 60 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 0.22 mmol, 30 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R)-1-(2-methoxy-7-methyl-1H-benzimidazol-5-ylmethyl)-2-(4-morpholin-4-yl-piperidin-1-yl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1CCOCC1)CC1=CC3=C(NC(=N3)OC)C(=C1)C)C=CC=C2 | C36H47N7O6
